US05958691
To a solution of 5-iodo,2'-azido,2'-deoxyuridine (2.48 g, 6.3 mmoles) in dioxane (33 ml) is added triphenylphosphine (5.8 g, 22 mmoles, 3.5 eq.) and the mixture is stirred at room temperature for 1 h, during which time a white precipitate forms. The precipitate is collected and washed three times with diethyl ether (3×50 ml). The filtrate is evaporated to dryness, taken up in a minimum amount of dioxane, and stored at -20° C. for 48 h. The precipitate is collected and washed with diethyl ether. The combined precipitates gave 1.81 g of 5-iodo,2'-amino,2'-deoxyuridine (78% yield). The spectral properties agreed with those reported in the literature (Verheyden et al. (1971) supra).

reactant | 5-iodo,2'-azido,2'-deoxyuridine | 6.3 mmoles, 2.48 g | IC=1C(NC(N([C@H]2[C@@H]([C@H](O)[C@@H](CO)O2)N=[N+]=[N-])C1)=O)=O | C9H10IN5O5
reactant | triphenylphosphine | 22 mmoles, 5.8 g, 3.5 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 33 ml | O1CCOCC1 | C4H8O2
product | 5-iodo,2'-amino,2'-deoxyuridine | 1.81 g, 78% yield | IC=1C(NC(N([C@H]2[C@@H]([C@H](O)[C@@H](CO)O2)N)C1)=O)=O | C9H12IN3O5
